US08541590B2
Step A. Preparation of 6-Phenyl-pyridine-2-carbonyl chloride
A 2-L three neck round bottomed flask equipped with an overhead stirrer, thermocouple, heating mantle with digital temperature controller, condenser and nitrogen inlet/outlet was charged with 100.0 g (0.502 mol) of 6-phenyl-2-pyridinecarboxylic acid and 1500 mL of toluene (Kf<0.02 wt %) then warmed to 40° C. Thionyl chloride (110 mL; 1.51 mol, 3 eq) was then added to the thin slurry via addition funnel over 20 minutes. The thin slurry was heated to 75° C. and stirred overnight (typically 10-16 hr), until it became a clear solution. Reaction was assayed via HPLC for conversion as the methyl ester derivative. After cooling the reaction mixture to room temperature the solvent and excess thionyl chloride were removed in vacuo as follows: Reaction mixture was stripped under full vacuum at 40° C. (bath temperature) to approximately ⅓ its original volume (˜500 ml) and then (1000 ml) of fresh toluene was added. Concentration was continued, again stripping to ⅓ original volume (˜500 ml) followed by re-dilution with 1000 ml of fresh toluene. The total amount of toluene removed was ˜2000 mL.

reactant | 6-phenyl-2-pyridinecarboxylic acid | 0.502 mol, 100.0 g | C1(=CC=CC=C1)C1=CC=CC(=N1)C(=O)O | C12H9NO2
reactant | Thionyl chloride | 1.51 mol, 110 mL, 3 eq | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1500 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Phenyl-pyridine-2-carbonyl chloride | C1(=CC=CC=C1)C1=CC=CC(=N1)C(=O)Cl | C12H8ClNO
